US08754053B2
163 mg of 1-(3,5-Dichloro-phenyl)-2,2,2-trifluoro-ethanone (VIa) (Journal of Physical Organic Chemistry (1989), 2(4), 363-6), 486 mg of 5-acetyl-2-fluoro-benzonitrile (CAS:288309-07-9) and 276 mg of potassium carbonate in 5 ml of dry toluene were refluxed for 72 hours. The solvent was then evaporated under reduced pressure and the residue was purified on silica gel (eluent hexane/ethyl acetate 6:1) affording 5-[3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-fluoro-benzonitrile as a yellow resin in 46% yield (solidified on standing). 1H-NMR (CDCl3, δ in ppm): 8.05-8.11 (m, 2H), 7.33-7.43 (m, 3H), 7.15 (s, 2H).

reactant | 1-(3,5-Dichloro-phenyl)-2,2,2-trifluoro-ethanone | 163 mg | ClC=1C=C(C=C(C1)Cl)C(C(F)(F)F)=O | C8H3Cl2F3O
reactant | 5-acetyl-2-fluoro-benzonitrile | 486 mg | C(C)(=O)C=1C=CC(=C(C#N)C1)F | C9H6FNO
reactant | potassium carbonate | 276 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-fluoro-benzonitrile | 46% yield | ClC=1C=C(C=C(C1)Cl)C(=CC(=O)C=1C=CC(=C(C#N)C1)F)C(F)(F)F | C17H7Cl2F4NO
